US06982348B2
4-fluoro-N-((1RS,2SR)-2-hydroxy-2-phenyl-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-1-naphthalenecarboxamide
To a solution of (1RS,2SR)-2-amino-1-phenyl-3-(4-(trifluoromethyl)phenyl)-1-propanol (500 mg, 1.69 mmol) in acetonitrile (30 ml) were added 4-fluoronaphthalenecarboxylic acid (322 mg, 1.69 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (487 mg, 2.54 mmol) and 1-hydroxy-1H-benzotriazole (259 mg, 1.69 mmol) and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed successively with 1N hydrochloric acid, 1N aqueous sodium hydroxide solution and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate). Recrystallization from ethyl acetate-hexane gave the title compound (650 mg, 84%).

reactant | (1RS,2SR)-2-amino-1-phenyl-3-(4-(trifluoromethyl)phenyl)-1-propanol | 1.69 mmol, 500 mg | NC(C(O)C1=CC=CC=C1)CC1=CC=C(C=C1)C(F)(F)F | C16H16F3NO
reactant | 4-fluoronaphthalenecarboxylic acid | 1.69 mmol, 322 mg | FC1=CC=C(C2=CC=CC=C12)C(=O)O | C11H7FO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.54 mmol, 487 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole | 1.69 mmol, 259 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | 4-fluoro-N-((1RS,2SR)-2-hydroxy-2-phenyl-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-1-naphthalenecarboxamide | 650 mg, 84% | FC1=CC=C(C2=CC=CC=C12)C(=O)NC(C(C1=CC=CC=C1)O)CC1=CC=C(C=C1)C(F)(F)F | C27H21F4NO2
